US08431695B2
Step 1: Preparation of 4-methylpiperazine-1-carbonyl chloride
To solution of methyl piperazine (166 uL, 1.50 mmol) In anhydrous dichloromethane (2 mL), diisopropyl ethyl amine (300 uL, 1.72 mmol) was added. The reaction was cooled to 0° C. under N2. Triphosgene (240 mg, 0.809 mmol) was added and the reaction was allowed to warm to rt. The chloride was used immediately without purification.

reactant | methyl piperazine | 1.50 mmol, 166 uL | CN1CCNCC1 | C5H12N2
reactant | diisopropyl ethyl amine | 1.72 mmol, 300 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Triphosgene | 0.809 mmol, 240 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-methylpiperazine-1-carbonyl chloride | CN1CCN(CC1)C(=O)Cl | C6H11ClN2O
